US07572805B2
Part A. (±)-trans tert-Butyl 8-ethyl-6-methyl-5-oxo-4-(2-(pyridin-3-yloxy)ethyl)-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate
To a solution of (±)-trans tert-butyl 8-ethyl-4-(2-hydroxyethyl)-6-methyl-5-oxo-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate, from Example 86, Part B, (24 mg, 0.064 mmol) in 1 mL of toluene was added 3-hydroxypyridine (9 mg, 0.096 mmol), triphenylphosphine (20 mg, 0.077 mmol) and diethylazodicarboxylate (0.035 mL, 0.077 mmol). The resulting mixture was allowed to stir at ambient temperature for 18 h. The reaction was diluted with ethyl acetate. The organics were washed with sat'd aq NaHCO3 and brine, dried (MgSO4), filtered through a pad of silica gel and concentrated in vacuo. The residue was purified by flash chromatography (elution with 3:2 to 1:2 hexane/ethyl acetate) to afford 20 mg of the title compound which was contaminated with a small amount of triphenylphosphine oxide. LRMS (ESI): 452.3 (M+H)+.

reactant | (±)-trans tert-butyl 8-ethyl-4-(2-hydroxyethyl)-6-methyl-5-oxo-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | C(C)C1=CC=2[C@H]3[C@H](N(C(C2C(=C1)C)=O)CCO)CN(C3)C(=O)OC(C)(C)C | C21H30N2O4
reactant | 3-hydroxypyridine | 0.096 mmol, 9 mg | OC=1C=NC=CC1 | C5H5NO
reactant | triphenylphosphine | 0.077 mmol, 20 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.077 mmol, 0.035 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-trans tert-Butyl 8-ethyl-6-methyl-5-oxo-4-(2-(pyridin-3-yloxy)ethyl)-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | 20 mg | C(C)C1=CC=2[C@H]3[C@H](N(C(C2C(=C1)C)=O)CCOC=1C=NC=CC1)CN(C3)C(=O)OC(C)(C)C | C26H33N3O4
